US06787546B2
(E)-4-(2-(2-(N-Morpholinoacetyl-N-(4-methoxybenzenesulfonyl) -amino)phenyl)ethenyl)pyridine 1-oxide hydrochloride
Morpholinoacetic acid (5.18 g) prepared in the same manner as Reference Example 1 was dissolved in methylene chloride (230 ml), and triethylamine (4.86 g) was added thereto. To the mixture was added dropwise ethyl chlorocarbonate (5.21 g) under ice-cooling, and the mixture was stirred for thirty minutes at room temperature. To the mixture was added (E)-4-(2-(2-(N-(4-methoxybenzenesulfonyl)amino)phenyl)ethenyl)pyridine 1-oxide (7.65 g) and the mixture was further stirred for three hours at room temperature. The reaction solution was washed with water, dried over magnesium sulfate and concentrated. The resultant residue was dissolved in acetonitrile. To the solutuion was added hydrochloric acid-methanol and the mixture was stirred over night at room temperature. The precipitated crystals were filtered off, washed with acetonitrile and further with ether and the crude crystals were obtained. The recrystallizaion from methanol yielded the objective compound (8.16 g).

reactant | Morpholinoacetic acid | 5.18 g | O1CCN(CC1)CC(=O)O | C6H11NO3
reactant | triethylamine | 4.86 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 5.21 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | (E)-4-(2-(2-(N-(4-methoxybenzenesulfonyl)amino)phenyl)ethenyl)pyridine 1-oxide | 7.65 g | COC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)/C=C/C1=CC=[N+](C=C1)[O-] | C20H18N2O4S
solvent | methylene chloride | 230 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (E)-4-(2-(2-(N-Morpholinoacetyl-N-(4-methoxybenzenesulfonyl) -amino)phenyl)ethenyl)pyridine 1-oxide hydrochloride | 8.16 g | Cl.O1CCN(CC1)CC(=O)N(S(=O)(=O)C1=CC=C(C=C1)OC)C1=C(C=CC=C1)/C=C/C1=CC=[N+](C=C1)[O-] | InChI=1S/C26H27N3O6S.ClH/c1-34-23-8-10-24(11-9-23)36(32,33)29(26(30)20-27-16-18-35-19-17-27)25-5-3-2-4-22(25)7-6-21-12-14-28(31)15-13-21;/h2-15H,16-20H2,1H3;1H/b7-6+;
